US04617316
A stirred mixture of 15.0 g (0.07 mole) of 1-(2-chloro-4-nitrophenyl)pyrrole and 30.0 g (0.53 mole) of iron powder in 100 ml of water was heated at reflux. During a three hour period 59.0 g (0.98 mole) of glacial acetic acid was added dropwise to the refluxing reaction mixture. Reflux was continued for one hour after complete addition. The mixture was cooled to room temperature, filtered and the filter cake rinsed with toluene. The filtrate was extracted with toluene (three 150 ml portions) and the extracts combined with the toluene rinse. The toluene solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave an oil which solidified. The solid was purified by column chromatography using silica gel and eluting with methylene chloride, to yield 8.5 g of 3-chloro-4-(pyrrol-1-yl)aniline.

reactant | 1-(2-chloro-4-nitrophenyl)pyrrole | 0.07 mole, 15.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1C=CC=C1 | C10H7ClN2O2
reactant | acetic acid | 0.98 mole, 59.0 g | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
catalyst | iron | 0.53 mole, 30.0 g | [Fe] | Fe
product | 3-chloro-4-(pyrrol-1-yl)aniline | 8.5 g | ClC=1C=C(N)C=CC1N1C=CC=C1 | C10H9ClN2
